US20010020092A1
N,N-Dimethyl 2-(N-(N-(4,6-dimethoxypyrimid-2-yl)-aminocarbonyl)-aminosulfonyl)4-formamidobenzamide (XIV)
A mixture of 30 g N,N-dimethyl 2-aminosulfonyl-4-formamidobenzamide (VI*) and 3.3 g (N-(4.6-dimethoxypyrimidin-2yl)phenylcarbamate (3.3 g) in acetonitrile (250 ml) was treated with potassium carbonate (30 g) at 20° C. A further portion of (N-(4.6-dimethoxypyrimidin-2yl)phenylcarbamate (2 g) was added after 3 hours. After a further hour xylene (400 ml) was added and the acetonitrile removed by distillation in vacuo (45° C.). Thereafter hydrochloric acid (1 N, 400 ml) was added, the product filtered, washed with water (2× 200 ml), xylene (2×200 ml) and dried. Yield 42 g (=66.1%), 78.7% w/w.

reactant | N,N-dimethyl 2-aminosulfonyl-4-formamidobenzamide | 30 g | CN(C(C1=C(C=C(C=C1)NC=O)S(=O)(=O)N)=O)C | C10H13N3O4S
reactant | N-(4.6-dimethoxypyrimidin-2yl)phenylcarbamate | 3.3 g | COC1=NC(=NC(=C1)OC)N(C([O-])=O)C1=CC=CC=C1
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(4.6-dimethoxypyrimidin-2yl)phenylcarbamate | 2 g | COC1=NC(=NC(=C1)OC)N(C([O-])=O)C1=CC=CC=C1
reactant | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | N,N-Dimethyl 2-(N-(N-(4,6-dimethoxypyrimid-2-yl)-aminocarbonyl)-aminosulfonyl)4-formamidobenzamide | CN(C(C1=C(C=C(C=C1)NC=O)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC)=O)C | C17H20N6O7S
